US09428452B2
Preparation of 5-[(2,4-dimethylphenyl)(2-methylpropyl)sulfamoyl]-2-(oxan-4-ylmethoxy)benzoic acid (Example 91)
To a stirred solution of 3-cyano-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (50 mg, 0.110 mmol) in ethanol (1 mL) at 25° C. was added sodium hydroxide (0.548 mL, 2.190 mmol). After which the reaction mixture was stirred at 80° C. for 15 hours, then cooled, ethanol removed and crude partitioned between ethyl acetate (20 mL) and HCl (2N, 15 mL). The organic layer was separated, dried over MgSO4 and the solvent removed in vacuo to give a yellow oil. The crude was purified by mass directed autoprep (ammonium carbonate modifier). The relevant fractions were evaporated in vacuo to give the required product, 16.1 mg. LCMS [LCMS2] Rt 0.91 mins, m/z (ES+) 476 (M+H).

reactant | 3-cyano-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | 0.110 mmol, 50 mg | C(#N)C=1C=C(C=CC1OCC1CCOCC1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C25H32N2O4S
reactant | sodium hydroxide | 2.190 mmol, 0.548 mL | [OH-].[Na+]
reactant | ethanol | 1 mL | C(C)O | C2H6O
product | 5-[(2,4-dimethylphenyl)(2-methylpropyl)sulfamoyl]-2-(oxan-4-ylmethoxy)benzoic acid | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OCC1CCOCC1)CC(C)C | C25H33NO6S
